US04014920
115.5 g (0.525 mol) of 3-allyloxy-4-hydroxy-cinnamic acid are dissolved in 530 ml of 2 N sodium hydroxide solution, 800 g of ice are added and 107 g (1.05 mols) of acetic anhydride are introduced dropwise over the course of quarter of an hour at 0°-5° C, whilst stirring. The crystals which have precipitated are then filtered off, suction-dried and recrystallised from chloroform. 3-Allyloxy-4-acetoxy-cinnamic acid of melting point 154°-155° C is obtained.

reactant | 3-allyloxy-4-hydroxy-cinnamic acid | 0.525 mol, 115.5 g | C(C=C)OC=1C=C(C=CC(=O)O)C=CC1O | C12H12O4
reactant | acetic anhydride | 1.05 mols, 107 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium hydroxide | 2 N, 530 ml | [OH-].[Na+]
product | 3-Allyloxy-4-acetoxy-cinnamic acid | C(C=C)OC=1C=C(C=CC(=O)O)C=CC1OC(C)=O | C14H14O5
